US05849779
To a solution of 3-amino-1benzyl-4-ethoxycarbonylpyrazole (0.5 g) in DMF (10 ml), was added 60% NaH (0.082 g). After stirring for 5 min at room temperature, benzyl bromide (0.307 ml) was added, and the mixture was stirred for 1 h at room temperature. The reaction mixture was evaporated under reduced pressure followed by silica-gel column chromatography (toluene/ ethyl acetate=50/1) to give 3-benzylamino-1-benzyl-4-ethoxycarbonylpyrazole (0.3 g). This intermediate was derived to the title compound by the similar method to Reference Example 1 (yield 31%).

reactant | 3-amino-1benzyl-4-ethoxycarbonylpyrazole | 0.5 g | NC1=NN(C=C1C(=O)OCC)CC1=CC=CC=C1 | C13H15N3O2
reactant | NaH | 0.082 g | [H-].[Na+]
reactant | benzyl bromide | 0.307 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzylamino-1-benzyl-4-ethoxycarbonylpyrazole | 0.3 g | C(C1=CC=CC=C1)NC1=NN(C=C1C(=O)OCC)CC1=CC=CC=C1 | C20H21N3O2
